US07199147B2
Acetic acid (2.6 ml) and water (0.7 ml) were added to a solution of 5-(4-benzyl-1-piperazinyl)-1-tetrahydro-2H-pyran-2-yl-1H-indazole (100 mg, 0.266 mmol) in tetrahydrofuran (1.3 ml) at room temperature and stirred 80° C. for 7 hours. Then, the reaction solution was concentrated and the resulting residue was diluted with ethyl acetate and washed with a saturated aqueous sodium hydrogencarbonate solution and then a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent, and the resulting residue was purified by a thin-layer chromatography (eluent: chloroform/methanol=95/5) to obtain 5-(4-benzyl-1-piperazinyl)-1H-indazole (37 mg, 47%).

reactant | Acetic acid | 2.6 ml | C(C)(=O)O | C2H4O2
reactant | water | 0.7 ml | O | H2O
reactant | 5-(4-benzyl-1-piperazinyl)-1-tetrahydro-2H-pyran-2-yl-1H-indazole | 0.266 mmol, 100 mg | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C2C=NN(C2=CC1)C1OCCCC1 | C23H28N4O
solvent | tetrahydrofuran | 1.3 ml | O1CCCC1 | C4H8O
product | 5-(4-benzyl-1-piperazinyl)-1H-indazole | 37 mg, 47% | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C2C=NNC2=CC1 | C18H20N4
